US07067523B2
In 30 ml of toluene, 0.85 g of 4-hydroxy-6-methyl-2-oxo-2H-pyrane-3-carboxylic acid, 0.9 g of 1-propanol and 0.12 g of 4-dimethylaminopyridine were dissolved, and 0.96 g of WSC was added to the mixture, and the mixture was stirred at room temperature for 16 hours. Subsequently, water was poured into the reaction mixture, and the reaction mixture was extracted with ethyl acetate. The resultant organic layer was washed with saturated a saturated solution of sodium chrolide, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography to obtain 0.37 g of propyl 4-hydroxy-6-methyl-2-oxo-2H-pyrane-3-carboxylate (Compound No. 2).

reactant | 4-hydroxy-6-methyl-2-oxo-2H-pyrane-3-carboxylic acid | 0.85 g | OC1=C(C(OC(=C1)C)=O)C(=O)O | C7H6O5
reactant | 1-propanol | 0.9 g | C(CC)O | C3H8O
reactant | WSC | 0.96 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | propyl 4-hydroxy-6-methyl-2-oxo-2H-pyrane-3-carboxylate | 0.37 g | OC1=C(C(OC(=C1)C)=O)C(=O)OCCC | C10H12O5
